US09212168B2
(a) (R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of [(S)-2-methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (155 mg, 0.30 mmol) and (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (180 mg, 0.30 mmol, Preparation 1) dissolved in toluene (1.9 mL) and water (0.33 mL) was added potassium carbonate (210 mg, 1.52 mmol). The reaction mixture was sparged under nitrogen. Tetrakis(triphenylphosphine)palladium(0) (42 mg, 0.036 mmol) was added and the reaction mixture was sparged with nitrogen and heated at 100° C. overnight. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated to produce the title intermediate as a brownish solid. (m/z): [M+H]+ calcd for C44H52ClF3N8O, 897.36. found 897.

reactant | [(S)-2-methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.30 mmol, 155 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O5
reactant | (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 180 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=C(C=C(C(=C1)OC(F)(F)F)Br)Cl)=O)C | C23H25BrClF3N4O4
reactant | water | 0.33 mL | O | H2O
reactant | potassium carbonate | 1.52 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1.9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.036 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-4-methyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1Cl)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)=O)C | C44H52ClF3N8O7
